Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Augmentin / Iodinated Contrast Media - IV Dye
 
Attending: ___.
 
Chief Complaint:
Fatigue
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with non-Hodgkin's lymphoma subset SLL (not on treatment),
hypothyroidism, complex neurologic history with "neurologic
spells" and TIA along with psychiatric history of bipolar vs
depression with psychotic features, currently under work-up for
myasthenia ___ (not diagnosed, no treatment) at ___ (follows
neuro, neuropsych, and psych) who presented to the ED from
___ with complaints of fatigue. She reported that it was
extremely difficult for her to stay awake. Also states that she
first had bilateral vocal cord paralysis back in ___.
Since then, she has had difficult swallowing, confirmed by an
abnormal swallow study at ___. She has been going to speech
therapy since ___. Also notes intermittent blurry/double vision
for months. Currently reporting a dull posterior headache
extending into the neck. She felt mildly SOB and nauseous but
denied chest pain, abdominal pain, dysuria, diarrhea, or BRBPR.
Her LMP was months ago. She has also been feeling constipated, 
with no BMS for 5 days.

Patient denies taking any herbal or OTC supplements. States that
she is compliant with her medications and has not missed taking
any of her levothyroxine. She does state that she did have
thyroid studies done recently but does not know if they were 
done
by her PCP or one of her specialists at ___. No family history 
of
autoimmune conditions.
 
In the ED, initial vitals were:  97.2, 64, 157/93, 12, 97% RA 

ED Exam notable for:
Lethargic, eyes closed
Head NC/AT, PERRLA, EOMI, no nysatmgus
RRR
CTA bilaterally
Bilateral ___ strength ___, otherwise no focal neurological
deficits

Labs notable for:

9.8 >15.6/45.8< ___     AGap=13 
-------------< 99 
5.0  25  0.7  

UTox +Barbiturates

TSH: 27

NCHCT: No acute intracranial abnormality

Patient Given:
Acetaminophen 650 mg
Ondansetron 4 mg   
Aspirin 81 mg 
Levothyroxine Sodium 225 mcg 
Losartan Potassium 100 mg 

Patient evaluated by neurology. Based on history and physical 
exam do not
feel she is having myasthenic flair. Patient with normal
examination and mental status is intact. Recommend getting tox
screen and tsh. lyme studies. Records from ___ neurology and 
___ regarding her lymphoproliferative disorder might be of
benefit. If admitted, neurology will follow as consult service. 

Resp:
NIF= -35 with patient's head semi elevated and minimal effort
applied

Vitals prior to transfer:
98.3, 77, 128/92, 16, 98% RA  

Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or
gain. denies headache, sinus tenderness, rhinorrhea or
congestion. Denies cough, shortness of breath. Denies chest pain
or tightness, palpitations. Denies nausea, vomiting, diarrhea. 
No dysuria. Denies arthralgias or myalgias.  ROS otherwise 
negatie in remaining systems.
 
Past Medical History:
Past Medical History
Non-Hodgkin Lymphoma
Fibromuscular Dystrophy
Asthma
Hypothyroidism
GERD
PFO 
Migraines 
Cholelithiasis
Lichen sclerosis

Past Surgical History
Cholecystectomy
Bladder suspension
Abdominoplasty
Breast Augmentation
C-section
 
Social History:
___
Family History:
Family Hx:
Several cousins with Factor V Leiden
Father has has several MI's starting at age ___, s/p CABG
Mother healthy
Mother's uncle with a stroke at age ___
Paternal grandmother died suddenly of unknown causes at age ___,
was thought she could have had a stroke

 
Physical Exam:
Admission Exam
Vital Signs: 98.3, 146/104, 76, 16, 97% Ra  
General: AAOx3, NAD 
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL
Neck: mildly enlarged thyroid, no palpable LAD
CV: RRR, +S1/2  
Lungs: CTAB, no wheezing  
Abdomen: Soft, NTND, +BS, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ distal pulses, no edema  
Neuro: CNII-XII are intact, face is symmetric, ___nd RLE but 4+/5 in LUE and LLE (good initial effort but
cannot sustain), no sensory deficits, 2+ biceps reflexes, gait
normal  

Discharge Exam
___ 0800 Temp: 97.9 PO BP: 121/79 L Lying HR: 67 RR: 16 O2
sat: 94% O2 delivery: Ra 
General: AAOx3, NAD 
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL
Neck: mildly enlarged thyroid, no palpable LAD
CV: RRR, +S1/2  
Lungs: CTAB, no wheezing  
Abdomen: Soft, NTND, +BS, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ distal pulses, no edema  
Neuro: CNII-XII are intact, face is symmetric, ___ strength in
all extremities, no sensory deficits, 2+ biceps reflexes, gait
normal  

 
Pertinent Results:
ADMISSION LABS
___ 03:00AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 11:05AM   PLT COUNT-305
___ 11:05AM   NEUTS-65.9 ___ MONOS-6.0 EOS-3.6 
BASOS-0.9 IM ___ AbsNeut-6.48* AbsLymp-2.24 AbsMono-0.59 
AbsEos-0.35 AbsBaso-0.09*
___ 11:05AM   WBC-9.8 RBC-5.23* HGB-15.6 HCT-45.8* MCV-88 
MCH-29.8 MCHC-34.1 RDW-14.0 RDWSD-44.7
___ 11:05AM   TSH-27*
___ 11:05AM   ALBUMIN-4.9 CALCIUM-9.9 PHOSPHATE-3.8 
MAGNESIUM-2.2
___ 11:05AM   ALT(SGPT)-14 AST(SGOT)-20 ALK PHOS-90 TOT 
BILI-0.5
___ 11:05AM   estGFR-Using this

INTERVAL LABS
___ 06:58PM   T3-64* FREE T4-0.8*
___ 06:58PM   TSH-33*
___ 06:35AM BLOOD T4-4.0* calcTBG-1.29 TUptake-0.78 
T4Index-3.1*
___ 06:40AM BLOOD T4-4.1* calcTBG-1.27 TUptake-0.79 
T4Index-3.2* Free T4-0.7*
___ 09:40AM BLOOD T4-8.6 calcTBG-1.09 TUptake-0.92 
T4Index-7.9 Free T4-1.6
___ 12:40PM BLOOD T4-8.3 calcTBG-1.11 TUptake-0.90 
T4Index-7.5 Free T4-1.5

DISCHARGE LABS

___ 06:15AM BLOOD WBC-7.9 RBC-4.37 Hgb-13.1 Hct-39.0 MCV-89 
MCH-30.0 MCHC-33.6 RDW-14.4 RDWSD-46.5* Plt ___
___ 06:15AM BLOOD Glucose-97 UreaN-26* Creat-0.6 Na-138 
K-4.1 Cl-101 HCO3-24 AnGap-13
___ 06:15AM BLOOD Calcium-8.9 Phos-2.7 Mg-2.0

MICROBIOLOGY

___ 3:00 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 

 Lyme IgG (Final ___: 
      NEGATIVE BY EIA. 
           (Reference Range-Negative). 

   Lyme IgM (Final ___: 
      NEGATIVE BY EIA. 
           (Reference Range-Negative). 
      Negative results do not rule out B. ___ infection. 
 Patients
      in early stages of infection or on antibiotic therapy may 
not produce
      detectable levels of antibody. 
 
___ 2:50 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 

___ 5:28 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING/STUDIES

CT Head WO Contrast ___:
IMPRESSION:  
No acute intracranial abnormality on noncontrast head CT.  
Specifically no 
large territory infarct or intracranial hemorrhage. 

Portable Abdomen ___
IMPRESSION:
Unremarkable study. No findings to correlate with patient's 
symptoms.

Thyroid US ___:
IMPRESSION:
Heterogeneous hypervascular thyroid gland consistent with 
thyroiditis.  No
thyroid nodule identified.

EMG study ___
IMPRESSION:
Normal study. Based on single fiber EMG and repetitive nerve 
stimulation
studies, there is no electrophysiologic evidence for a 
post-synaptic disorder of neuromuscular transmission, as would 
be seen in myasthenia ___.

 
Brief Hospital Course:
Ms. ___ is a ___ year old female with history of CLL treatment 
naive, fibromuscular dystrophy, hypothyroidism, complex 
neurological history including "neurologic spells" with TIA 
along with bipolar vs. depression with psychotic features, 
undergoing outpatient work-up for myasthenia ___, who 
initially presented as a transfer from ___ with acute 
fatigue initially concerning for myasthenic flair, found to have 
clinical hypothyroidism. Was evaluated by endocrinology, found 
to have clinical hypothyroidism with TSH elevated at 33 with 
normal thyroid uptake study thought to be in the setting of 
recent initiation of herbal supplements interacting with her 
home synthroid. She was later re-started on her home synthroid 
dosage unchanged with instructions to discontinue her herbal 
supplements. Given her ongoing fatigue, intermittent shortness 
of breath and ptosis, was evaluated by neurology underwent an 
EMG as part of her myasthenia ___ work-up which was negative. 


ACUTE ISSUES
==================
# Hypothyroidism - History of Hashimoto thyroidis maintained on 
levothyroxine 225mcg daily, who presented with acute 2 day 
history of fatigue, in the setting of weight gain and 
constipation. She reported adherence to her synthroid ___, 
however recently started taking weight loss supplements 
including apple cider vinegar and garcinia cambogia 1 week 
prior. Per review of partners records, documented to have normal 
TSH, elevated TPO and thyroglobulin antibodies one month prior 
previously stable on synthroid ___ daily. TSH found to be 
elevated at 33. Thyroid US showed evidence of thyroiditis and 
thyroid uptake study was normal. Her fatigue was likely 
secondary to clinical hypothyroidism, also may be multifactorial 
component with possible progression of non-hodgkin lymphoma 
versus myasthenia ___ considered. Endocrine was consulted, 
she had a thyroid uptake study which showed normal absorption. 
Per endocrine taking her herbal supplements for 1 week can cause 
almost complete lack of absorption leading to her clinical 
hypothyroidism. She was therefore continued on her home regimen 
without dosage adjustments with plan to repeat TSH in ___ weeks. 
Per patient request was provided list of ___ 
Endocrinologists who she would like to establish care with. 
Outpatient ___ labs ordered will need to obtain them 1 week 
prior to her appointment in 6 weeks.

# Complex neurological history "neurologic spells" with TIA 
# Myasthenia ___ Work-up - Previous complex neurologic 
history followed by Dr. ___ at ___ and neuropsychiatry Dr. 
___. After obtaining collateral information from Dr. 
___ has had intermittent aphasia, symptoms 
consistent with dystonia, "neurologic spells" for upwards of ___ 
years without ever a clear diagnosis. She has been undergoing an 
extensive work-up for myasthenia ___ in the outpatient 
setting given her history of intermittent shortness of breath, 
weakness, and ptosis. During hospitalization, was evaluated by 
neurology here. She had a CT Head with no acute intracranial 
abnormalities. Also underwent EMG testing which was normal 
without evidence of fatigability or myasthenia ___. She was 
continued on ASA 81mg daily and simvastatin 40 mg daily. 

___ - In the setting of an episode of hypotension on the 
morning of ___ with an SBP in the ___, the patient was 
noted to have an elevated creatinine up-trended to 1.3. She was 
asymptomatic and was given 500cc of NS with her Cr subsequently 
down-trending to 1.0. 

___ course was complicated by brief 
hypotension SBP ___ of unclear etiology also with elevated Cr 
per above that was fluid responsive. Possibly in the setting of 
poor PO intake. There were no infectious signs or symptoms, 
patient was not septic. Her home anti-hypertensives losartan 
100mg daily, lisinopril 20mg daily, and metoprolol 25mg daily 
were initially held. On discharge, was re-started on home 
metoprolol 25mg daily, losartan and lisinopril were held. Will 
make transitional issue to consider re-starting ___ if 
hypertensive in outpatient setting.

#HTN - With history of celiac artery dissection and aneurysm 
involving the celiac artery and mildly ectatic right common 
iliac artery, with goal SBP <160. Per above her 
anti-hypertensies were initially held given ___ and brief 
hypotension. She was later re-started on metoprolol 25mg daily 
per above on discharge, holding ACE-I and ___.

#Abdominal Pain - Patient endorsed diffuse abdominal pain on 
___, with some mild tenderness throughout. Her symptoms 
were non-peritoneal. A KUB showed no abnormalities. Her pain 
improved with bowel regimen.

CHRONIC ISSUES
==================
#Dysphagia - Patient has a history of dysphagia previously given 
diagnosis of vocal cord dysfunction, however on recent MRI Head 
Neck ___ at ___ no imaging evidence of vocal cord 
paralysis or mass. She was also previously evaluated by SLP 
found to have abnormal swallow study with progressive oral stage 
weakness with laryngeal penetration and reduced esophageal 
clearance also prompting outpatient work-up of myasthenia vs. 
other neuromuscular disease. She was seen by SLP here during 
hospitalization found to not have concern for aspiration or 
changes in respiratory status observed. Per their 
recommendations was continued on regular solids and thin 
liquids. Will defer to ongoing outpatient work-up if indicated. 

# Depression with Psychotic Features - Patient is followed by 
neuropsych and psych at ___. Was continued on home 
oxcarbamazepine 600mg PO BID, quetiapine 200mg daily, and 
sertraline 200mg daily

TRANSITIONAL ISSUES
=====================
[ ] NEW/CHANGED MEDICATIONS
- Lisinopril 20mg daily held on discharge given hypotension
- Losartan 100mg daily held on discharge given hypotension

[ ] Patient plans to establish care with ___ 
Endocrinologist in 6 weeks with repeat TSH 1 week prior to 
appointment (outpatient labs ordered)
[ ] Goal SBP <160. Consider re-starting ___ if indicated
[ ] Ongoing outpatient workup of dysphagia as indicated
[ ] Ongoing work-up of myasthenia ___ if indicated

# CODE: full (presumed) 
# CONTACT: 
Name of health care proxy: ___ 
Relationship: Husband 
Phone number: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 100 mg PO DAILY 
2. Lisinopril 20 mg PO DAILY 
3. OXcarbazepine 600 mg PO BID 
4. QUEtiapine Fumarate 200 mg PO QHS 
5. LORazepam 0.5 mg PO DAILY:PRN anxiety 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. Clobetasol Propionate 0.05% Ointment 1 Appl TP DAILY:PRN 
lichen sclerosis 
8. Simvastatin 40 mg PO QPM 
9. Aspirin 81 mg PO DAILY 
10. Albuterol Inhaler 1 PUFF IH DAILY:PRN bronchospasm 
11. Levothyroxine Sodium 225 mcg PO DAILY 
12. Sertraline 200 mg PO DAILY 
13. butalbital-acetaminophen-caff 50-300-40 mg oral DAILY:PRN 
migraine 

 
Discharge Medications:
1.  butalbital-acetaminophen-caff 50-30-40 mg oral DAILY:PRN 
migraine  
2.  Albuterol Inhaler 1 PUFF IH DAILY:PRN bronchospasm  
3.  Aspirin 81 mg PO DAILY  
4.  Clobetasol Propionate 0.05% Ointment 1 Appl TP DAILY:PRN 
lichen sclerosis  
5.  Levothyroxine Sodium 225 mcg PO DAILY  
6.  LORazepam 0.5 mg PO DAILY:PRN anxiety  
7.  Metoprolol Succinate XL 25 mg PO DAILY  
8.  OXcarbazepine 600 mg PO BID  
9.  QUEtiapine Fumarate 200 mg PO QHS  
10.  Sertraline 200 mg PO DAILY  
11.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
- Fatigue
- Hypothyroidism
- Acute kidney injury
- Abdominal pain

SECONDARY
- Depression
- Migraines
- Dysphagia 
- Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory 

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___.

Why did you come to the hospital?
- You initially came to the hospital because of fatigue

What happened during your hospitalization?
- You had a thyroid study which showed hypothyroidism likely 
because of your herbal supplements which decreased the 
absorption of your medication
- You had an EMG study which was normal and did not show 
myasthenia ___
- You were evaluated by the endocrine specialists who 
recommended that you continue your home levothyroxine and avoid 
dietary supplements such as apple cider vinegar and Garcinia 
Cambogia

What should you do when you leave the hospital?
- Continue to take all of your medications as prescribed
- Follow-up with your primary care physician 1 week after 
discharge 
- A list of ___ Endocrinologists was provided. Please 
schedule an appointment in 6 weeks and have your labs drawn 1 
week before your appointment. 
- Follow-up with your other scheduled health care appointments 
as listed below
- Please avoid herbal supplements as this can interact with your 
other medications

Sincerely, 

Your ___ Care Team
 
Followup Instructions:
___